US05270308
Phosphorous oxychloride (0.5 ml) was added with ice-cooling to dimethylformamide (10 ml) and the mixture was stirred for 10 minutes. To the mixture was added 6-cyano-2,2-dimethyl-3,4-dihydro-2H-1,3-benzoxazin-4-one (1.0 g), and the mixture was stirred with ice-cooling for 1 hour and then at room temperature for 2 hours. The mixture was extracted with addition of ethyl acetate and ice water. The ethyl acetate layer was successively washed with an aqueous sodium bicarbonate solution and saturated saline, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Hexane was added to the residue and 4-chloro-6-cyano-2,2-dimethyl-2H-1,3-benzoxazine (0.41 g, mp. 124°-126° C.) was obtained by crystallization therefrom.

reactant | Phosphorous oxychloride | 0.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-cyano-2,2-dimethyl-3,4-dihydro-2H-1,3-benzoxazin-4-one | 1.0 g | C(#N)C=1C=CC2=C(C(NC(O2)(C)C)=O)C1 | C11H10N2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-chloro-6-cyano-2,2-dimethyl-2H-1,3-benzoxazine | 0.41 g | ClC1=NC(OC2=C1C=C(C=C2)C#N)(C)C | C11H9ClN2O
